US05238944
Preparation of Isooctyl Acrylate Acrylamide: Vinyl Acetate (75:5:20) Copolymer
A master batch was prepared by combining 621.0 g of isooctyl acrylate, 41.4 g of acrylamide, 165.6 g of vinyl acetate, 1.656 g of 2,2'-azobis(2,4-dimethylpentanenitrile) (available from the DuPont Company as Vazo™52), 884.52 g of ethyl acetate and 87.48 g of methanol. A 400 g portion of the resulting solution was placed in an amber quart bottle. The bottle was purged for two minutes with nitrogen at a flow rate of one liter per minute. The bottle was sealed and placed in a rotating water bath at 45° C. for twenty-four hours to effect essentially complete polymerization. The copolymer was diluted with 250 g of ethyl acetate/methanol (90/10) to 26.05% solids and had a measured inherent viscosity of 1.27 dl/g in ethyl acetate at a concentration of 0.15 g/dl. Its Brookfield viscosity was 5580 centipoise.

reactant | isooctyl acrylate | 621.0 g | C(C=C)(=O)OCCCCCC(C)C | C11H20O2
reactant | acrylamide | 41.4 g | C(C=C)(=O)N | C3H5NO
reactant | vinyl acetate | 165.6 g | C(C)(=O)OC=C | C4H6O2
reactant | 2,2'-azobis(2,4-dimethylpentanenitrile) | 1.656 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
reactant | Vazo | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | ethyl acetate methanol | 250 g | C(C)(=O)OCC.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 884.52 g | C(C)(=O)OCC | C4H8O2
solvent | methanol | 87.48 g | CO | CH4O
product | Isooctyl Acrylate Acrylamide Vinyl Acetate | C(C=C)(=O)N.C(C=C)(=O)OCCCCCC(C)C.C(C)(=O)OC=C | InChI=1S/C11H20O2.C4H6O2.C3H5NO/c1-4-11(12)13-9-7-5-6-8-10(2)3;1-3-6-4(2)5;1-2-3(4)5/h4,10H,1,5-9H2,2-3H3;3H,1H2,2H3;2H,1H2,(H2,4,5)
